2179-10-26 21:33:00 Physician Resident Progress Note
Chief Complaint: increasing dyspnea/transfer for milrinone gtt
   24 Hour Events:
   71-year-old woman with advanced end-stage ischemic cardiomyopathy with
   severe left ventricular dysfunction with LVEF of 10%, atrial
   fibrillation, [**Hospital1 **]-V ICD, CKD, with past history of DVT, PE on Coumadin,
   s/p IVC filter who presents from rehab with increasing dyspnea
   overnight. The patient was recently discharged from [**Hospital1 54**] CCU on [**9-22**]
   for CHF exacerbation and was discharged to rehab facility. Since that
   time, patient was hospitalized at [**Location (un) 108**] two weeks ago for pneumonia
   and ascites (6L drained)and discharged back to rehab.
   .
   She saw Dr. [**First Name (STitle) **] on [**2179-10-18**] as an outpatient for complaint of
   increasing dyspnea and had her dose of Torsemide increased from 20mg to
   40mg and Carvedilol was discontinued and switched to Metoprolol
   tartrate 12.5mg [**Hospital1 **].  Despite these changes, she reports increasing
   dyspnea with exertion. At baseline, patient is unable to perform ADLs
   without the assistance and there has been a noticible worsening in her
   physical limitations in the last week.
   .
   On the day of admission, she was started on azithromycin by the
   cardiology NP for concern for URI. She was taken to [**Hospital 108**] hospital
   for initial evaluation and was given another dose of torsemide 40mg x 1
   and then transferred to [**Hospital1 54**]. Patient's initial VS in the ED were 98.3
   76 105/70 16 96 on 4LNC. Pt was initially dyspneic, RR in 20s, wheezes
   bilaterally. Ascities worse than in past few weeks and 2+ pedal edema.
   .
   She was admitted overnight to the [**Hospital1 2259**] service and started on a lasix
   gtt at 10cc/hr and given metolazone 5mg x1 with 300cc + foley leakage
   of output. She diuresed 1L negative. Metoprolol was held given BP
   concerns. A RUQ Us was performed this am for further evaluation of
   ascites and LFT elevations. In for LENIs this am as well. VS on the
   floor 97.7 70 109/69 20 96% on 4L.
   .
   Cardiac review of systems is notable for presence of chest pain at
   rehab but none on the floor, dyspnea on exertion in the past week. She
   denies paroxysmal nocturnal dyspnea or orthopnea but has endorsed
   increased lower extremity edema. No palpitations, syncope or
   presyncope.
   .
   On review of systems, she denies any prior history of stroke, TIA,
   bleeding at the time of surgery, myalgias, joint pains, hemoptysis,
   black stools or red stools. She denies recent fevers, chills or rigors.
   She reports feeling nasal congestion, postnasal drip, and cough
   productive of green phlegm.  All of the other review of systems were
   negative.
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Allopurinol 100 mg PO/NG DAILY
   Amiodarone 200 mg PO/NG DAILY
   Aspirin 81 mg PO/NG DAILY
   Digoxin 0.0625 mg PO/NG DAILY
   Furosemide 10-20 mg/hr IV DRIP INFUSION
   Levothyroxine Sodium 125 mcg PO/NG DAILY
   Omeprazole 20 mg PO DAILY
   Simvastatin 10 mg PO/NG DAILY
   Warfarin 2.5 mg PO/NG DAILY16
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, Edema, No(t)
   Orthopnea
   Respiratory: Cough, Dyspnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: Dysuria
   Musculoskeletal: Joint pain
   Integumentary (skin): No(t) Jaundice
   Heme / Lymph: No(t) Lymphadenopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-10-26**] 09:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 76 (71 - 76) bpm
   BP: 109/66(76) {109/66(76) - 109/66(76)} mmHg
   RR: 20 (18 - 20) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), irregularly, irregular and
   distant heart sounds
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : b/l to mid lung fields, Wheezes : b/l with inspiration and
   expiration)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, No(t)
   Tender: positive fluid wave
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: Trace, No(t) Cyanosis
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
        [image002.jpg]
   Imaging: The left atrium is moderately dilated. The right atrium is
   markedly dilated. There is mild symmetric left ventricular hypertrophy.
   The left ventricular cavity is moderately dilated. There is severe
   regional left ventricular systolic dysfunction with anterior, septal
   and apical akinesis, as well as akinesis of the distal inferior wall
   (proximal LAD distribution). There is mild hypokinesis of the remaining
   segments (LVEF = 15-20%). No masses or thrombi are seen in the left
   ventricle. The right ventricular cavity is moderately dilated with
   severe global free wall hypokinesis. The aortic valve leaflets (3) are
   mildly thickened but aortic stenosis is not present. Mild to moderate
   ([**12-18**]+) mitral regurgitation is seen. Severe [4+] tricuspid
   regurgitation is seen. There is mild pulmonary artery systolic
   hypertension. There is a trivial/physiologic pericardial effusion.
   IMPRESSION: Dilated left ventricle with severe regional systolic
   dysfunction, c/w an extensive prior LAD infarction. Dilated right
   ventricle with severe systolic dysfunction. Mild to moderate mitral
   regurgitation. Severe tricuspid regurgitation. At least mild pulmonary
   hypertension.
   Microbiology: [**10-26**] Urine Culture - pending
   [**2179-10-26**] 2:34 pm SPUTUM      Source: Expectorated.
      GRAM STAIN (Final [**2179-10-26**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CHAINS.
      RESPIRATORY CULTURE (Preliminary):
   ECG: Vpaced with RBBB pattern
   Assessment and Plan
   ASSESSMENT AND PLAN:  71-year-old woman with advanced end-stage
   ischemic cardiomyopathy LVEF of 10%-15%, atrial fibrillation, [**Hospital1 **]-V ICD,
   chronic kidney disease with past history of DVT, PE on Coumadin
   presented with increased dyspnea and transferred to CCU for milrinone
   gtt.
   .
   # PUMP:  Advanced ischemic cardiomyopathy, LVEF 15-20%, presents with
   acute on chronic decompenstated systolic heart failure. Has failed home
   therapy with torsemide, BB. Clearly volume up as evidenced by elevated
   BNP, elevated JVP, bilateral rales, ascites, and lower extremity edema.
   Not responding to lasix gtt and metolazone on the floor. Has BiV pacer.
   TTE repeated on admit shows worsening MR which may be causing pulm htn
   and subsequent right heart failure.
   - start Milrinone 50mcg/kg/min bolus then .375mcg/kg/min once PICC
   placed
   - continue lasix gtt at 10, add metolazone 2.5mg [**Hospital1 **], goal 3L negative
   daily
   - continue digoxin, consider adding spironolactone if BP can tolerate
   - continue low dose BB
   - prn neosynephrine for hypotension
   - f/u nuclear viability study
   .
   # CORONARIES: Patient with mid-LAD BMS '[**64**]. Trop 0.04, CK-MB negative
   on presentation.
   - complete r/o MI
   - continue aspirin, statin, BB
   .
   # RHYTHM: H/o Afib, Vpaced with BiV pacer.
   - continue amiodarone, BB
   .
   # CKD: Creatinine baseline on last admit 2.3, Creatinine 1.5 on
   presentation now. Etiology unclear.
   - likely need creatinine of mid 2 to achieve appropriate fluid status
   - lasix for diuresis
   - f/u urine cultures
   .
   # Ascites: RHF is presumed etiology. No history of liver disease in
   past. Did have large volume tap at OSH few weeks ago. RUQ US c/w
   hepatic congestion likely [**1-18**] RHF.
   - obtain OSH records of paracentesis procedure and fluid eval
   - would need to cover for SBP if becomes febrile or unstable
   .
   # ? URI prior to admit: Patient started on zithromax empirically for
   possible sinusitis. She remains afebrile with no WBC elevation and no
   infiltrate on admission CXR however gram stain shows 1+GPC in pairs and
   clusters.
   - start Vanc given recent hospitalizations
   - f/u sputum culture
   .
   # LFT Elevation - Most likely etiology is hepatic congestion from RHF
   although AP/Bili elevation raises question of obstructive etiology. RUQ
   US WNL so likely hepatic congestion.
   - trend LFTs with trial of milrinone to see if they improve
   - consider holding statin if they continue to trend up
   .
   # H/O DVT/PE - On coumadin with therapeutic INR, h/o filter placement.
   Has significant LE edema which is likely secondary to CHF. LENIs
   negative from admission.
   - continue coumadin for goal INR [**1-19**]
   .
   # Hypothyroidism - Continue home dose of levothyroxine
   .
   FEN: Low salt, heart healthy diet, fluid restriction 1000cc/day.
   .
   ACCESS: PIV's, getting PICC for milrinone and pressors prn
   .
   PROPHYLAXIS:
   -DVT ppx with therapeutic INR
   -Bowel regimen with colace/senna
   .
   CODE: full confirmed .
   COMM:  patient, HCP - [**Name (NI) 2716**] [**Name (NI) 10801**](niece) [**Telephone/Fax (1) 10802**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2179-10-28 07:21:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   S/P IR guided PICC, and nuclear perfusion study
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2179-10-26**] 10:34 PM
   Infusions:
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2179-10-27**] 09:23 AM
   Famotidine (Pepcid) - [**2179-10-27**] 09:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-28**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.4
C (95.8
   HR: 69 (66 - 73) bpm
   BP: 91/46(57) {87/46(56) - 108/68(76)} mmHg
   RR: 17 (16 - 33) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
             Total In:
                                                                  1,263 mL
                                                                    216 mL
   PO:
                                                                    390 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    873 mL
                                                                    156 mL
   Blood products:
   Total out:
                                                                  4,790 mL
                                                                  1,150 mL
   Urine:
                                                                  4,790 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,527 mL
                                                                   -934 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///37/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   167 K/uL
   10.1 g/dL
   126 mg/dL
   1.3 mg/dL
   37 mEq/L
   3.7 mEq/L
   43 mg/dL
   94 mEq/L
   135 mEq/L
   31.1 %
   6.3 K/uL
        [image002.jpg]
                            [**2179-10-27**]  04:11 AM
                            [**2179-10-27**]  08:32 PM
                            [**2179-10-28**]  05:38 AM
   WBC
   6.4
   6.3
   Hct
   32.7
   31.1
   Plt
   165
   167
   Cr
   1.5
   1.3
   1.3
   Glucose
   221
   240
   126
   Other labs: PT / PTT / INR:32.5/37.9/3.3, ALT / AST:37/35, Alk Phos / T
   Bili:177/1.4, Ca++:8.4 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN:  71-year-old woman with advanced end-stage
   ischemic cardiomyopathy LVEF of 10%-15%, atrial fibrillation, [**Hospital1 **]-V ICD,
   chronic kidney disease with past history of DVT, PE on Coumadin
   presented with increased dyspnea and transferred to CCU for milrinone
   gtt.
   .
   # PUMP:  Advanced ischemic cardiomyopathy, LVEF 15-20%, presents with
   acute on chronic decompenstated systolic heart failure. Has failed home
   therapy with torsemide, BB. Clearly volume up as evidenced by elevated
   BNP, elevated JVP, bilateral rales, ascites, and lower extremity edema.
   Not responding to lasix gtt and metolazone on the floor. Has BiV pacer.
   TTE repeated on admit shows worsening MR which may be causing pulm htn
   and subsequent right heart failure.
   - started Milrinone 50mcg/kg/min bolus then .375mcg/kg/min once PICC
   placed ([**Month (only) 60**] titrate up to .75)
   - continue lasix gtt at 12, add metolazone 2.5mg [**Hospital1 **], goal 3L negative
   daily
   - continue digoxin, consider adding spironolactone if BP can tolerate
   - continue low dose BB
   - prn neosynephrine for hypotension
   - f/u nuclear viability study -> revascularize if possible
   .
   # CORONARIES: Patient with mid-LAD BMS '[**64**]. Trop 0.04, CK-MB negative
   on presentation.
   - completed r/o MI
   - continue aspirin, statin, BB
   .
   # RHYTHM: H/o Afib, Vpaced with BiV pacer.
   - continue amiodarone, BB
   .
   # CKD: Creatinine baseline on last admit 2.3, Creatinine 1.5 on
   presentation now. Etiology unclear.
   - likely need creatinine of mid 2 to achieve appropriate fluid status
   - continue lasix for diuresis
   - UCX (-)
   .
   # Ascites: RHF is presumed etiology. No history of liver disease in
   past. Did have large volume tap at OSH few weeks ago. RUQ US c/w
   hepatic congestion likely [**1-18**] RHF.
   - obtain OSH records of paracentesis procedure and fluid eval
   - would need to cover for SBP if becomes febrile or unstable
   .
   # ? URI prior to admit: Patient started on zithromax empirically for
   possible sinusitis. She remains afebrile with no WBC elevation and no
   infiltrate on admission CXR however gram stain shows 1+GPC in pairs and
   clusters.
   - start Vanc given recent hospitalizations
   - f/u sputum culture (gram + cocci in pairs and chains)
   - f/u vanc trough
   .
   # LFT Elevation - Most likely etiology is hepatic congestion from RHF
   although AP/Bili elevation raises question of obstructive etiology. RUQ
   US WNL so likely hepatic congestion.
   - trend LFTs with trial of milrinone to see if they improve (trending
   down)
   - consider holding statin if they continue to trend up
   .
   # H/O DVT/PE - On coumadin with therapeutic INR, h/o filter placement.
   Has significant LE edema which is likely secondary to CHF. LENIs
   negative from admission.
   - continue coumadin for goal INR [**1-19**]
   .
   # Hypothyroidism - Continue home dose of levothyroxine
   .
   FEN: Low salt, heart healthy diet, fluid restriction 1000cc/day.
   .
   ACCESS: PICC for milrinone and pressors prn
   .
   PROPHYLAXIS:
   -DVT ppx with therapeutic INR
   -Bowel regimen with colace/senna
   .
   CODE: full confirmed .
   COMM:  patient, HCP - [**Name (NI) 2716**] [**Name (NI) 10801**](niece) [**Telephone/Fax (1) 10802**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-10-26**] 08:38 PM
   PICC Line - [**2179-10-27**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   Additional comments:
   signed on [**2179-10-29**]
   diuresing well
   viability study then cath depending on viability results
   continue present management
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2179-10-29**]
   10:17 ------

2179-10-29 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - s/p viability test - good for RCA territory - (R and L cath), 5mg Vit
   K, hold coumadin, STAT INR, NPO after midnight.
   - held coumadin due to INR of >3
   - vanc level 6.0 this AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2179-10-26**] 10:34 PM
   Infusions:
   Milrinone - 0.5 mcg/Kg/min
   Furosemide (Lasix) - 12 mg/hour
   Other ICU medications:
   Omeprazole (Prilosec) - [**2179-10-28**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-29**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.3
C (97.4
   HR: 70 (68 - 71) bpm
   BP: 83/43(53) {83/41(53) - 105/65(72)} mmHg
   RR: 17 (15 - 21) insp/min
   SpO2: 93%
   Heart rhythm: AV Paced
             Total In:
                                                                  1,045 mL
                                                                    230 mL
   PO:
                                                                    210 mL
             TF:
   IVF:
                                                                    835 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  3,410 mL
                                                                  1,160 mL
   Urine:
                                                                  3,410 mL
                                                                  1,160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,365 mL
                                                                   -930 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula (4L)
   SpO2: 93%
   ABG: ///39/
   Physical Examination
   GEN: NAD, AAOx3
   CV: Distant heart sounds.  [**1-22**] SM, increased with inspiration, heard
   best @ LLSB.  Bounding jugular pulsation.
   RESP: Bibasilar rales R>L.
   ABD: soft, mildly distended, nontender, normoactive BS
   EXT: cool, 2+ pulses, [**1-19**]+ pitting edema to midshins bilaterally
   Labs / Radiology
   164 K/uL
   9.9 g/dL
   155 mg/dL
   1.3 mg/dL
   39 mEq/L
   3.4 mEq/L
   41 mg/dL
   91 mEq/L
   135 mEq/L
   30.3 %
   11.4 K/uL
        [image002.jpg]
                            [**2179-10-27**]  04:11 AM
                            [**2179-10-27**]  08:32 PM
                            [**2179-10-28**]  05:38 AM
                            [**2179-10-28**]  05:11 PM
                            [**2179-10-29**]  05:13 AM
   WBC
   6.4
   6.3
   11.4
   Hct
   32.7
   31.1
   30.3
   Plt
   165
   167
   164
   Cr
   1.5
   1.3
   1.3
   1.3
   1.3
   Glucose
   221
   240
   126
   178
   155
   Other labs: PT / PTT / INR:33.4/38.4/3.4, ALT / AST:27/27, Alk Phos / T
   Bili:153/1.4, Ca++:8.1 mg/dL, Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   MYOCARDIAL VIABILITY:
   Within limitation of current study, fixed defects in distal anterior
   and apical walls are consistent with scarring. Improvement of inferior
   wall
   defect with correction is suggestive of myocardial viability.
   Assessment and Plan
   71 yo F with advanced end-stage ischemic cardiomyopathy LVEF of
   10%-15%, atrial fibrillation, [**Hospital1 **]-V ICD, chronic kidney disease with
   past history of DVT, PE on Coumadin presented with increased dyspnea
   and transferred to CCU for milrinone gtt.
   .
   # PUMP:  Advanced ischemic cardiomyopathy, LVEF 15-20%, presents with
   acute on chronic decompenstated systolic heart failure. Has failed home
   therapy with torsemide, BB. Clearly volume up as evidenced by elevated
   BNP, elevated JVP, bilateral rales, ascites, and lower extremity edema.
   Not responding to lasix gtt and metolazone on the floor. Has BiV pacer.
   TTE repeated on admit shows worsening MR which may be causing pulm htn
   and subsequent right heart failure.  Nuclear viability study indicated
   inferior myocardium is potentially viable.
   - LHC/RHC when INR sufficiently low to assess for possible
   interventions; plan is for Monday
   - continue milrinone .50 mcg/kg/min
   - continue lasix gtt at 12 + metolazone 2.5mg [**Hospital1 **], goal 2-3L negative
   daily
   - continue digoxin, consider adding spironolactone if BP can tolerate
   - continue low dose BB
   - prn neosynephrine for hypotension
   .
   # CORONARIES: Patient with mid-LAD BMS '[**64**]. Trop 0.04, CK-MB negative
   on presentation.
   - completed r/o MI
   - continue aspirin, statin, BB
   .
   # RHYTHM: H/o Afib, V-paced with BiV pacer.
   - continue amiodarone, BB
   .
   # ARF: Creatinine baseline on last admit 2.3, Creatinine 1.3 now.
   - continue lasix for diuresis
   .
   # Ascites: RHF is presumed etiology. No history of liver disease in
   past. Did have large volume tap at OSH few weeks ago. RUQ US c/w
   hepatic congestion likely [**1-18**] RHF.
   - if warranted, obtain OSH records of paracentesis procedure and fluid
   eval
   - would cover for SBP if becomes febrile or unstable
   .
   # ? URI prior to admit: Patient started on zithromax empirically for
   possible sinusitis. She remains afebrile; no infiltrate on admission
   CXR.  Sputum cx grew out commensal flora.  Acute leukocytosis this AM.
   - f/u differential
   - reculture if spike
   - recheck UA/UCx
   - vanc trough 6.0 yesterday; however, d/ced given no obvious source of
   infection
   .
   # LFT Elevation
 Improved after diuresis initiated.  Likely [**1-18**]
   congestive hepatopathy.
   .
   # H/O DVT/PE - On coumadin with therapeutic INR, h/o filter placement.
   Has significant LE edema which is likely secondary to CHF. LENIs
   negative from admission.
   - holding coumadin in setting of supratherapeutic INR
   - total Vit K given 10 mg
   .
   # Hypothyroidism - Continue home dose of levothyroxine
   .
   FEN: Low salt, heart healthy diet, fluid restriction 1000cc/day.
   .
   ACCESS: PICC for milrinone and pressors prn
   .
   PROPHYLAXIS:
   -DVT ppx with therapeutic INR
   -Bowel regimen with colace/senna
   .
   CODE: full confirmed .
   COMM:  patient, HCP - [**Name (NI) 2716**] [**Name (NI) 10801**](niece) [**Telephone/Fax (1) 10802**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-10-26**] 08:38 PM
   PICC Line - [**2179-10-27**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   signed on [**2179-11-1**]
   diuresing well
   planning for left and right heart cath early next week
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 3179**]  on:[**2179-11-1**]
   07:46 ------

2179-10-30 07:28:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   HPI:
   24 Hour Events:
   [**10-29**]:
   - Continued to run negative
   - Started on heparin drip to bridge until cath
   - C.Diff +, started PO Vanc and Flagyl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2179-10-29**] 08:20 AM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-30**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 70 (67 - 76) bpm
   BP: 94/47(58) {83/39(50) - 108/62(72)} mmHg
   RR: 20 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Height: 60 Inch
             Total In:
                                                                  1,491 mL
                                                                    478 mL
   PO:
                                                                    270 mL
             TF:
   IVF:
                                                                  1,221 mL
                                                                    478 mL
   Blood products:
   Total out:
                                                                  3,800 mL
                                                                    955 mL
   Urine:
                                                                  3,500 mL
                                                                    955 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                 -2,309 mL
                                                                   -477 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///38/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.9 g/dL
   164 K/uL
   127
   1.3 mg/dL
   38 mEq/L
    3.3 mEq/L-=------ to receive 60 KCL
   40 mg/dL
   89 mEq/L
   135 mEq/L
   30.3 %
   11.4 K/uL
        [image002.jpg]
                            [**2179-10-27**]  04:11 AM
                            [**2179-10-27**]  08:32 PM
                            [**2179-10-28**]  05:38 AM
                            [**2179-10-28**]  05:11 PM
                            [**2179-10-29**]  05:13 AM
                            [**2179-10-29**]  04:22 PM
                            [**2179-10-29**]  11:00 PM
   WBC
   6.4
   6.3
   11.4
   Hct
   32.7
   31.1
   30.3
   Plt
   165
   167
   164
   Cr
   1.5
   1.3
   1.3
   1.3
   1.3
   1.3
   Glucose
   221
   240
   126
   178
   155
   178
   127
   Other labs: PT / PTT / INR:20.3/ 150.0/1.9, ALT / AST:27/27, Alk Phos /
   T Bili:153/1.4, Differential-Neuts:94.2 %, Lymph:3.6 %, Mono:1.7 %,
   Eos:0.3 %, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   71 yo F with advanced end-stage ischemic cardiomyopathy LVEF of
   10%-15%, atrial fibrillation, [**Hospital1 **]-V ICD, chronic kidney disease with
   past history of DVT, PE on Coumadin presented with increased dyspnea
   and transferred to CCU for milrinone gtt.
   .
   # PUMP:  Advanced ischemic cardiomyopathy, LVEF 15-20%, presents with
   acute on chronic decompenstated systolic heart failure. Has failed home
   therapy with torsemide, BB. Clearly volume up as evidenced by elevated
   BNP, elevated JVP, bilateral rales, ascites, and lower extremity edema.
   Not responding to lasix gtt and metolazone on the floor. Has BiV pacer.
   TTE repeated on admit shows worsening MR which may be causing pulm htn
   and subsequent right heart failure.  Nuclear viability study indicated
   inferior myocardium is potentially viable.
   - LHC/RHC when INR sufficiently low to assess for possible
   interventions; plan is for Monday
   - continue milrinone .50 mcg/kg/min
   - continue lasix gtt at 12 + metolazone 2.5mg [**Hospital1 **], goal 2-3L negative
   daily
   - continue digoxin, consider adding spironolactone if BP can tolerate
   - continue low dose BB
   - prn neosynephrine for hypotension, keep a close eye given diarrhea
   .
   # CORONARIES: Patient with mid-LAD BMS '[**64**]. Trop 0.04, CK-MB negative
   on presentation.
   - completed r/o MI
   - continue aspirin, statin, BB
   .
   # RHYTHM: H/o Afib, V-paced with BiV pacer.
   - continue amiodarone, BB
   .
   # C. DIFF:  + in the setting of Azithromycin  Cipro and Vancomycin
   exposure.  Cipro held pending UCX results.
   - po Flagyl
   .
   #Cough: likely CHF in origin,  cannot r/o asthmatic contribution
   - guanefesin with codeine
   - Ipratroprium/albuterol
   .
   # ARF: Creatinine baseline on last admit 2.3, Creatinine 1.3 now.
   - continue lasix for diuresis, goal neg -2 to -3L
   - plenty of room on creat
   .
   # Ascites: RHF is presumed etiology. No history of liver disease in
   past. Did have large volume tap at OSH few weeks ago. RUQ US c/w
   hepatic congestion likely [**1-18**] RHF.
   - if warranted, obtain OSH records of paracentesis procedure and fluid
   eval
   - would cover for SBP if becomes febrile or unstable
   .
   # ? URI prior to admit: Patient started on zithromax empirically for
   possible sinusitis. She remains afebrile; no infiltrate on admission
   CXR.  Sputum cx grew out commensal flora.  Acute leukocytosis this AM.
   - f/u differential
   - reculture if spike
   - recheck UA/UCx
   - hold abx pending UCX
   .
   # LFT Elevation
 Improved after diuresis initiated.  Likely [**1-18**]
   congestive hepatopathy.
   .
   # H/O DVT/PE/low flow/Afib - On coumadin with therapeutic INR, h/o
   filter placement. Had significant LE edema which is likely secondary to
   CHF(greatly resolved). LENIs negative from admission.
   - holding coumadin in setting of supratherapeutic INR
   - total Vit K given 10 mg
   - Heparin bridge initiated
   .
   # Hypothyroidism - Continue home dose of levothyroxine
   .
   FEN: Low salt, heart healthy diet, fluid restriction 1000cc/day.
   .
   ACCESS: PICC for milrinone and pressors prn
   .
   PROPHYLAXIS:
   -DVT ppx with therapeutic INR
   -Bowel regimen with colace/senna
   .
   CODE: full confirmed .
   COMM:  patient, HCP - [**Name (NI) 2716**] [**Name (NI) 10801**](niece) [**Telephone/Fax (1) 10802**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-10-26**] 08:38 PM
   PICC Line - [**2179-10-27**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2179-10-31 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - positive C. diff, PO flagyl started
   - continue cipro, UCx grew out GNR (ID, [**Last Name (un) **] pending)
   - uptitrated lasix to 18 mg/hr to continue diuresis
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2179-10-29**] 08:20 AM
   Infusions:
   Furosemide (Lasix) - 18 mg/hour
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-10-31**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 70 (70 - 73) bpm
   BP: 93/51(61) {81/41(51) - 107/64(74)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 95%
   Heart rhythm: AV Paced
   Wgt (current): 82 kg (admission): 90 kg
   Height: 60 Inch
             Total In:
                                                                  1,742 mL
                                                                    237 mL
   PO:
                                                                    540 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,202 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  3,350 mL
                                                                  1,420 mL
   Urine:
                                                                  3,350 mL
                                                                  1,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,608 mL
                                                                 -1,183 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///38/
   Physical Examination
   GEN: NAD, AAOx3
   CV: Distant heart sounds.  [**1-22**] SM, increased with inspiration, heard
   best @ LLSB.  Bounding jugular pulsation.
   RESP: Bibasilar rales R>L.
   ABD: soft, mildly distended, nontender, normoactive BS
   EXT: cool, 2+ pulses, [**1-19**]+ pitting edema to midshins bilaterally
   Labs / Radiology
   178 K/uL
   10.3 g/dL
   103 mg/dL
   1.1 mg/dL
   38 mEq/L
   3.7 mEq/L
   37 mg/dL
   90 mEq/L
   136 mEq/L
   32.0 %
   11.0 K/uL
        [image002.jpg]
                            [**2179-10-27**]  04:11 AM
                            [**2179-10-27**]  08:32 PM
                            [**2179-10-28**]  05:38 AM
                            [**2179-10-28**]  05:11 PM
                            [**2179-10-29**]  05:13 AM
                            [**2179-10-29**]  04:22 PM
                            [**2179-10-29**]  11:00 PM
                            [**2179-10-30**]  06:37 AM
                            [**2179-10-30**]  06:21 PM
   WBC
   6.4
   6.3
   11.4
   11.0
   Hct
   32.7
   31.1
   30.3
   32.0
   Plt
   165
   167
   164
   178
   Cr
   1.5
   1.3
   1.3
   1.3
   1.3
   1.3
   1.3
   1.1
   Glucose
   221
   240
   126
   178
   155
   178
   127
   105
   103
   Other labs: PT / PTT / INR:18.3/70.4/1.7, ALT / AST:27/27, Alk Phos / T
   Bili:153/1.4, Differential-Neuts:94.2 %, Lymph:3.6 %, Mono:1.7 %,
   Eos:0.3 %, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   71 yo F with advanced end-stage ischemic cardiomyopathy LVEF of
   10%-15%, atrial fibrillation, [**Hospital1 **]-V ICD, chronic kidney disease with
   past history of DVT, PE on Coumadin presented with increased dyspnea
   and transferred to CCU for milrinone gtt.
   .
   # PUMP:  Advanced ischemic cardiomyopathy, LVEF 15-20%, presents with
   acute on chronic decompenstated systolic heart failure. Has failed home
   therapy with torsemide, BB. Clearly volume up as evidenced by elevated
   BNP, elevated JVP, bilateral rales, ascites, and lower extremity edema.
   Not responding to lasix gtt and metolazone on the floor. Has BiV pacer.
   TTE repeated on admit shows worsening MR which may be causing pulm htn
   and subsequent right heart failure.  Nuclear viability study indicated
   inferior myocardium is potentially viable.
   - LHC/RHC when INR sufficiently low to assess for possible
   interventions; plan is for Monday
   - continue milrinone .50 mcg/kg/min
   - continue lasix gtt at 12 + metolazone 2.5mg [**Hospital1 **], goal 2-3L negative
   daily
   - continue digoxin, consider adding spironolactone if BP can tolerate
   - continue low dose BB
   - prn neosynephrine for hypotension, keep a close eye given diarrhea
   .
   # CORONARIES: Patient with mid-LAD BMS '[**64**]. Trop 0.04, CK-MB negative
   on presentation.
   - completed r/o MI
   - continue aspirin, statin, BB
   .
   # RHYTHM: H/o Afib, V-paced with BiV pacer.
   - continue amiodarone, BB
   .
   # C. DIFF:  + in the setting of Azithromycin  Cipro and Vancomycin
   exposure.  Cipro held pending UCX results.
   - po Flagyl
   .
   #Cough: likely CHF in origin,  cannot r/o asthmatic contribution
   - guanefesin with codeine
   - Ipratroprium/albuterol
   .
   # ARF: Creatinine baseline on last admit 2.3, Creatinine 1.3 now.
   - continue lasix for diuresis, goal neg -2 to -3L
   - plenty of room on creat
   .
   # Ascites: RHF is presumed etiology. No history of liver disease in
   past. Did have large volume tap at OSH few weeks ago. RUQ US c/w
   hepatic congestion likely [**1-18**] RHF.
   - if warranted, obtain OSH records of paracentesis procedure and fluid
   eval
   - would cover for SBP if becomes febrile or unstable
   .
   # ? URI prior to admit: Patient started on zithromax empirically for
   possible sinusitis. She remains afebrile; no infiltrate on admission
   CXR.  Sputum cx grew out commensal flora.  Acute leukocytosis this AM.
   - f/u differential
   - reculture if spike
   - recheck UA/UCx
   - hold abx pending UCX
   .
   # LFT Elevation
 Improved after diuresis initiated.  Likely [**1-18**]
   congestive hepatopathy.
   .
   # H/O DVT/PE/low flow/Afib - On coumadin with therapeutic INR, h/o
   filter placement. Had significant LE edema which is likely secondary to
   CHF(greatly resolved). LENIs negative from admission.
   - holding coumadin in setting of supratherapeutic INR
   - total Vit K given 10 mg
   - Heparin bridge initiated
   .
   # Hypothyroidism - Continue home dose of levothyroxine
   .
   FEN: Low salt, heart healthy diet, fluid restriction 1000cc/day.
   .
   ACCESS: PICC for milrinone and pressors prn
   .
   PROPHYLAXIS:
   -DVT ppx with therapeutic INR
   -Bowel regimen with colace/senna
   .
   CODE: full confirmed .
   COMM:  patient, HCP - [**Name (NI) 2716**] [**Name (NI) 10801**](niece) [**Telephone/Fax (1) 10802**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-10-26**] 08:38 PM
   PICC Line - [**2179-10-27**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2179-11-01 10:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-31**]
   - held lasix, I/O was -2L.
   - Ucx got KLEBSIELLA PNEUMONIAE - cipro sensitive.\
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 701 units/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-11-1**] 10:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 70 (70 - 75) bpm
   BP: 103/62(72) {88/43(54) - 110/71(77)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 96%
   Heart rhythm: AV Paced
   Wgt (current): 76.6 kg (admission): 90 kg
   Height: 60 Inch
             Total In:
                                                                  1,054 mL
                                                                    356 mL
   PO:
                                                                    420 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    634 mL
                                                                    236 mL
   Blood products:
   Total out:
                                                                  3,645 mL
                                                                    700 mL
   Urine:
                                                                  3,645 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,591 mL
                                                                   -344 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///42/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   225 K/uL
   10.7 g/dL
   93 mg/dL
   1.2 mg/dL
   42 mEq/L
   3.4 mEq/L
   31 mg/dL
   90 mEq/L
   136 mEq/L
   32.5 %
   6.6 K/uL
        [image002.jpg]
                            [**2179-10-27**]  08:32 PM
                            [**2179-10-28**]  05:38 AM
                            [**2179-10-28**]  05:11 PM
                            [**2179-10-29**]  05:13 AM
                            [**2179-10-29**]  04:22 PM
                            [**2179-10-29**]  11:00 PM
                            [**2179-10-30**]  06:37 AM
                            [**2179-10-30**]  06:21 PM
                            [**2179-10-31**]  06:08 AM
                            [**2179-11-1**]  06:16 AM
   WBC
   6.3
   11.4
   11.0
   9.3
   6.6
   Hct
   31.1
   30.3
   32.0
   32.6
   32.5
   Plt
   167
   164
   178
   197
   225
   Cr
   1.3
   1.3
   1.3
   1.3
   1.3
   1.3
   1.1
   1.2
   1.2
   Glucose
   [**Telephone/Fax (3) 10863**]55
   178
   127
   105
   103
   79
   93
   Other labs: PT / PTT / INR:17.2/106.5/1.5, ALT / AST:27/27, Alk Phos /
   T Bili:153/1.4, Differential-Neuts:94.2 %, Lymph:3.6 %, Mono:1.7 %,
   Eos:0.3 %, Ca++:8.5 mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   71 yo F with advanced end-stage ischemic cardiomyopathy LVEF of
   10%-15%, atrial fibrillation, [**Hospital1 **]-V ICD, chronic kidney disease with
   past history of DVT, PE on Coumadin presented with increased dyspnea
   and transferred to CCU for milrinone gtt.
   .
   # PUMP:  Advanced ischemic cardiomyopathy, LVEF 15-20%, presents with
   acute on chronic decompenstated systolic heart failure. Has failed home
   therapy with torsemide, BB. Clearly volume up as evidenced by elevated
   BNP, elevated JVP, bilateral rales, ascites, and lower extremity edema.
   Not responding to lasix gtt and metolazone on the floor. Has BiV pacer.
   TTE repeated on admit shows worsening MR which may be causing pulm htn
   and subsequent right heart failure.  Nuclear viability study indicated
   inferior myocardium is potentially viable.
   - LHC/RHC when INR sufficiently low to assess for possible
   interventions; plan for cath deferred pending further discussion as
   well as resolution of active C. diff infection
   - holding diuresis for now given stool losses
   - continue digoxin
   - continue low dose BB
   - prn neosynephrine for hypotension, keep a close eye given diarrhea
   .
   # CORONARIES: Patient with mid-LAD BMS '[**64**]. Trop 0.04, CK-MB negative
   on presentation.
   - completed r/o MI
   - continue aspirin, statin, BB
   .
   # RHYTHM: H/o Afib, V-paced with BiV pacer.
   - continue amiodarone, BB
   .
   # C. DIFF:  + in the setting of Azithromycin, Cipro, Vanc exposure.
   - po Flagyl
   .
   # UTI: GNR on UCx, ID/[**Last Name (un) **] pending
   - po Cipro, renally dosed
   .
   # Cough: likely CHF in origin,  cannot r/o asthmatic contribution.
   Improved today.
   - guanefesin with codeine
   - Ipratroprium/albuterol
   .
   # ARF: Creatinine baseline on last admit 2.3, Creatinine 1.3 now.
   - continue lasix for diuresis, goal neg -2 to -3L
   - plenty of room on creat
   .
   # Ascites: RHF is presumed etiology. No history of liver disease in
   past. Did have large volume tap at OSH few weeks ago. RUQ US c/w
   hepatic congestion likely [**1-18**] RHF.
   - if warranted, obtain OSH records of paracentesis procedure and fluid
   eval
   - would cover for SBP if becomes febrile or unstable
   .
   # LFT Elevation
 Improved after diuresis initiated.  Likely [**1-18**]
   congestive hepatopathy.
   .
   # H/O DVT/PE/low flow/Afib - On coumadin with therapeutic INR, h/o
   filter placement. Had significant LE edema which is likely secondary to
   CHF(greatly resolved). LENIs negative from admission.
   - holding coumadin in setting of supratherapeutic INR
   - total Vit K given 10 mg
   - Heparin bridge initiated
   .
   # Hypothyroidism - Continue home dose of levothyroxine
   .
   FEN: Low salt, heart healthy diet, fluid restriction 1000cc/day.
   .
   ACCESS: PICC for milrinone and pressors prn
   .
   PROPHYLAXIS:
   -DVT ppx with therapeutic INR
   -Bowel regimen with colace/senna
   .
   CODE: full confirmed .
   COMM:  patient, HCP - [**Name (NI) 2716**] [**Name (NI) 10801**](niece) [**Telephone/Fax (1) 10802**]
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-10-26**] 08:38 PM
   PICC Line - [**2179-10-27**] 12:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: